US05378712
By coupling 2.6 g of Z-L-leucine with 2 g of t-butyl 4-piperidinyloxyacetate as described in Example 1d) there are obtained 4.1 g of t-butyl [[1-[N-[(benzyloxy)carbonyl]-L-leucyl]-4-piperidinyl]oxy]acetate, MS (FAB): 463 (M+H)+.

reactant | Z-L-leucine | 2.6 g | CC(C)C[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | t-butyl 4-piperidinyloxyacetate | 2 g | N1CCC(CC1)OCC(=O)OC(C)(C)C | C11H21NO3
product | t-butyl [[1-[N-[(benzyloxy)carbonyl]-L-leucyl]-4-piperidinyl]oxy]acetate | 4.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N1CCC(CC1)OCC(=O)OC(C)(C)C | C25H38N2O6
